US07915258B2
2-Chloro-N-methoxy-N-methylbenzamide (XIII)
50 ml of 2-chlorobenzoyl chloride are added slowly to a mixture of 37.33 g of N-methoxymethanamine hydrochloride and 104 ml of triethylamine in 500 ml of DCM and the mixture is left to stir overnight at AT. Water is added to the reaction mixture, the mixture is extracted with DCM, the organic phase is washed with a buffer solution pH=2 and dried over Na2SO4, and the solvent is evaporated off under vacuum. 78.57 g of the expected compound are obtained.

reactant | 2-chlorobenzoyl chloride | 50 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | N-methoxymethanamine hydrochloride | 37.33 g | Cl.CONC
reactant | triethylamine | 104 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-methoxy-N-methylbenzamide | 78.57 g | ClC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10ClNO2
